Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Gross hematuria and shaking
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ yo man with a history of DMII with renal 
complications and CKD, HTN, and a history of prostate CA s/p 
radiation (___), who presents with gross hematuria and shaking. 
Mr. ___ called PCP with complaints of blood in his urine for 
___ days, associated with shaking. He was instructed to come to 
the hospital for further evaluation.

He first noticed red-tinged urine 2 days ago. The shaking began 
___ days ago, first noticed when he was holding the telephone to 
his ear and couldn't keep it still with his right hand and had 
to switch hands. He fell once this morning as a result of the 
shaking making him unsteady, but denies any trauma to the head, 
or any loss of consciousness or dizziness.  This has never 
happened to him before, nor has he ever noticed blood in his 
urine. He has no pain with urination, though has noted some 
increased frequency over the last 2 months with increased 
difficulty initiating a stream in the last week. He has been on 
Flomax for a number of years. No hx of kidney stones. 

On ROS, he has been constipated for the last week, with BMs 1x/3 
days, when normally he has a BM every day (is on colace and eats 
fiber). He also says he has had increased fatigue, but that has 
been chronic, with no recent changes. He has some difficulty 
with his vision, often seeing spots lately, but is seeing his 
ophthalmologist for this. He has noticed some numbness and 
tingling in his feet, and says he uses a cream to help that. 
Otherwise, has not had any difficulty walking as long as he uses 
his cane (his baseline). He used to travel 2x/year to ___ 
to see his family, but has not been able to do so in the last 
___ years. No history of travel outside of the ___. Denies fever 
(except upon admission to the ED), chills, night sweats, 
headache, rhinorrhea, congestion, sore throat, shortness of 
breath, chest pain, abdominal pain, nausea, vomiting, diarrhea, 
BRBPR, melena, hematochezia, or dysuria.

In the ED, initial vitals 99.4 ___ 18 96%RA. Exam notable 
for normal male genitalia, no scrotal swelling or testicular 
tenderness, heme negative brown stool, nontender prostate, no 
CVA tenderness. Labs notable for hct of 20.4 initially, with a 
drop to 19.8; hgb of 6.7; WBC 13.4, with a diff of 81% PMNs, 4% 
bands, 2% lymphs, 12% monos, and 1% atypicals; Chem7 revealed Cr 
of 4.5, BUN 90, HCO3 19 with an AG of 17. Haptoglobin was 251, 
ferritin was 29. UA was red/hazy in appearance with large leuks 
and blood, with 182 WBCs, 182 RBCs, and many bacteria. Patient 
got a Foley, and 2 IVs were placed. Type and screen was sent.

Vitals prior to transfer: 98.9 92 111/57 14 100%. On arrival to 
the floor, vitals were 98.7, 109/40, 93, 18, 98% RA. Continued 
to have some chills and foley with bright red urine, but 
otherwise asymptomatic. Denied lightheadedness, sob, chest pain, 
abdominal pain, one-sided weakness, back pain.
 
Past Medical History:
-DM (diabetes mellitus), type 2 with renal complications  
-Chronic renal insufficiency, stage II (mild)    
-Vitamin D deficiency
-Colonic adenoma (sigmoid)  
-Impotence ___ erectile dysfunction  
-History of prostate cancer, s/p radiation therapy
-Osteoarthrits of the left knee 
-Hepatitis C - no treatment, but liver was biopsied per patient
-Open angle glaucoma  
-Hypertension 
-Positive PPD 
-History of gallstones
-Cataracts bilaterally, with surgical removal in L eye. Patient 
states he has a L dilated pupil since the surgery 
 
Social History:
___
Family History:
maternal grandmother - DM
mother - DM, died of cervical cancer
father - healthy as far as patient is aware
sister - deceased, from complications of DM
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: Tc 98.7, HR 93, BP 109/40, RR 18, O2Sat 98%RA, gluc 143
GENERAL: well-appearing man in NAD, comfortable and conversant  
HEENT: NC/AT, EOMI, sclerae anicteric, MMM, OP clear and without 
erythema or other oral lesions; dentures in place; R PEERL from 
2-1.5cm, L is not reactive and fixed dilated to 5cm 
NECK: supple, no JVD, and no LAD appreciated; no carotid bruits 
noted
LUNGS: CTAB, no adventitious sounds, with equal chest expansion; 
unlabored respirations, no accessory muscle use.
HEART: RRR, nl S1-S2; ___ systolic flow murmur heard best at the 
apex; no rubs or gallops
ABDOMEN: soft and nontender to deep palpation, with moderate 
distension; no masses appreciated; no rebound or guarding; +BS 
BACK: no CVA tenderness
EXTREMITIES: warm and well perfused, 2+ peripheral pulses 
(radials, DPs); 2+ pitting edema to above the knee, L>R, without 
palpable cord or overlying erythema. 
NEURO: 
Mental status: awake, alert, and oriented to person, hospital, 
season, and date. Attention intact, able to name ___ backwards 
without difficulty. Was only able to subtract one serial 7 to 
93, and then lost track. Knew the current president was ___, 
and that the election is tomorrow and the other candidate is 
___. Able to repeat no ifs, ands, or buts. Fluent speech, 
without paraphasic errors or dysarthria. Naming of high 
frequency words (finger, knuckle) intact, but not low frequency 
word (cuticle). Able to follow complex and cross-midline 
commands. Registration was ___ and recall at 10 min was ___ 
without difficulty. 
CNs III-XII largely intact, with only loss of right visual 
fields of the left eye.
Motor: Strength was ___ throughout. Normal bulk and tone. Action 
and positional tremors with absent asterixis. No tremor at rest.
Sensation: sensation to light touch was intact in extremities. 
Positional sensation in great toes was intact bilatarally. 
Coordination: Intention tremor with FNF. 
Reflexes: 3+ in the UEs bilaterally, 2+ in the patella, 0 in the 
Achilles bilaterally; down going toes in plantar reflex.
Gait: Unstable on standing, so was not able to assess gait or 
Romberg.

DISCHARGE PHYSICAL EXAM
VS - Tc 98.7, Tm 99.4 ___ on ___, HR 64, BP 140/76, RR 18, 
O2Sat 100%RA, glucose 121  
GENERAL - well-appearing man in NAD, comfortable and conversant  

HEENT - NC/AT, EOM grossly intact, sclerae anicteric, MMM, OP 
clear and without erythema or other oral lesions; L pupil 
remains fixed dilation to 5cm, R is RRL, from 2-1.5cm. 
NECK - supple, no JVD, and no LAD appreciated
LUNGS - CTAB, no adventitious sounds, with equal chest 
expansion; unlabored respirations, with good effort and no 
accessory muscle use.
HEART - RRR, nl S1-S2; no m/r/g
ABDOMEN - soft and nontender to deep palpation, with moderate 
distension; no masses appreciated; no organomegaly; no rebound 
or guarding; +BS 
EXTREMITIES - warm and well perfused, 2+ peripheral pulses 
(radials, DPs); 1+ pitting edema to mid calf L>R, with only mild 
edema on the right to the ankle; both without overlying erythema 
or palpable cord.    
NEURO - awake, alert and oriented to person, place, date. No 
longer has tremors.
  

 
Pertinent Results:
ADMISSION LABS:
___ 11:30AM   WBC-13.4* RBC-3.15* HGB-6.7* HCT-20.4* 
MCV-65* MCH-21.3* MCHC-32.9 RDW-17.8*
___ 11:30AM   PLT SMR-NORMAL PLT COUNT-349
___ 11:30AM   NEUTS-81* BANDS-4 LYMPHS-2* MONOS-12* EOS-0 
BASOS-0 ATYPS-1* ___ MYELOS-0
___ 11:30AM   HYPOCHROM-2+ ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-NORMAL MICROCYT-3+ POLYCHROM-1+ OVALOCYT-1+ TARGET-1+
___ 11:30AM   ALT(SGPT)-35 AST(SGOT)-61* LD(LDH)-380* ALK 
PHOS-60 TOT BILI-0.6
___ 11:30AM   ALBUMIN-4.0
___ 11:30AM   VIT B12-919* HAPTOGLOB-251* FERRITIN-29*
___ 12:48PM URINE  COLOR-RED APPEAR-Hazy SP ___
___ 12:48PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG
___ 12:48PM URINE  RBC->182* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-1
___ 12:48PM URINE  OSMOLAL-292
___ 12:48PM URINE  HOURS-RANDOM UREA N-349 CREAT-89 
SODIUM-48 POTASSIUM-29 CHLORIDE-33
___ 09:55PM   LACTATE-2.2*
___ 09:55PM   ___ PO2-44* PCO2-36 PH-7.41 TOTAL CO2-24 
BASE XS-0 INTUBATED-NOT INTUBA

PERTINENT LABS:
Per Atrius records, ferritin 9.3 L, TIBC high in ___
Iron studies in-hospital:
Ferritin: 29 (low/nl)
Serum iron: 16
TIBC: 373
Transferrin: 287
Transferrin saturation: 5.57%

Cr/BUN:
Per Atrius records, ___ Cr 1.91, BUN 50
During this admission:
___ - ___ - ___ - 3.___ - ___

Hct/MCV:
Per Atrius records: ___ hct 27.4, MCV 75.9; ___ hct 39.5, MCV 
85.9
During this admission:
___ 12:20- 19.8
___- 18.3
___ 15:40- 25.3
___ 07:45- ___ 08:20- 25.___

WBC:
___ (Diff 81 PMNs, 4 bands, 2 lymphs, 12 monos, 1 
atypical)
___ (Diff 92 PMNs, no bands, 2 lymphs, 6 monos, no 
atypicals)
___ (Diff 82 PMNs, 3 bands,  6 lymphs, 9 monos, no 
atypicals) 
___ (Diff 86 PMNs, no bands, 5 lymphs, 5 monos, 3 eos, 1 
meta, no atypicals)

TSH: 0.23 L
Free T4 1.1

HIV Ab: neg

Coags: (___)
___ 12.8 (mildly high), PTT 25.2, INR 1.2 (mildly high), 
fibrinogen 257

PSA: Per Atrius records, ___ PSA 0.6 

MICROBIOLOGY:
___ 8:35 am IMMUNOLOGY
                            **FINAL REPORT ___
   HCV VIRAL LOAD (Final ___: 4,989,635 IU/mL.

___ 11:30 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of 2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ @ 510AM 
___. 
      GRAM NEGATIVE ROD(S). 

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S).

___ 12:48 pm URINE      UCU ADDED TO ___. 

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING: 

Renal US as outpatient (Atrius, ___: clear renal cyst in 
upper pole of R kidney, no cholelithiasis, no focal liver 
abnormality seen.

NCHCT (___):
NON-CONTRAST HEAD CT:  A portion of the study was repeated due 
to patient motion. There is no acute hemorrhage, mass effect, or 
loss of gray/white matter differentiation to suggest an acute 
large vascular territorial infarction.  Multiple foci of 
hypoattenuation within the corona radiata and periventricular 
white matter are suggestive of chronic small vessel ischemic 
disease.  The ventricles are mildly large due to age appropriate 
atrophy.  Suprasellar and basilar cisterns are not compressed.  
The bones are unremarkable.  Visualized paranasal sinuses and 
mastoid air cells are well aerated. 
IMPRESSION:  No evidence of an acute intracranial process.

Renal/bladder US (___): Final
IMPRESSION:  Minimally complex right renal cortical cyst.  No 
evidence of hydronephrosis or source of hematuria identified.
 
Brief Hospital Course:
Mr. ___ is an ___ yo man with a history of DMII complicated by 
chronic renal insufficiency stage II, HTN, HepC, and a history 
of prostate cancer s/p radiation, who presents with gross 
hematuria and shaking, found to have a UTI/severe urosepsis.

ACUTE CARE:  
# Severe urosepsis: UA in the ED was consistent with a UTI 
(+leuk, WBC >182, many bacteria). Spiked a fever around 1700 on 
___, with T 103, RR 28, WBCs 13, and HR 103, meeting 
criteria for SIRS, and urosepsis with the UTI as a source. 
Considered severe as there was a change in mental status 
associated and end organ damage (___). Continued with fevers for 
2 days after starting ctx, so concern for pseudomonal bacteremia 
led to broadening with Zosyn, but cultures and sensitivities 
came back revealing pansensitive E coli. Fevers resolved, and 
Mr. ___ continued to be afebrile when transitioned to PO 
ciprofloxacin. Will need to follow up with blood cultures and 
will continue with cipro for a total of 14 days from last 
negative blood culture (___).

# Acute on chronic kidney injury: Creatine level noted in the ED 
to be 4.5, up from the patient's baseline of 1.9, last check in 
___. On ___, the patient experienced a significant change in 
mental status, with large amplitude muscle jerks, inattention, 
and clonus. No evidence of encephalopathy as this episode was 
noted to be a transient change in mental status, and serum lytes 
were normal. Clinical picture, fevers, and UTI/urosepsis is most 
consistent with a prerenal cause precipitating ATN, in the 
setting of ACEI and NSAID use at home. Additionally, the urine 
chemistry and osmolality was more consistent with an 
interstitial process, in addition to the prerenal hypovolemia, 
lending credibility to ATN precipitated by hypovolemia. After 
IVF, creatinine has been slowly improving, consistent with some 
degree of ATN. In light of his CKD as well as his ___ hold 
ACEI, metformin, and NSAIDs at home, as these likely contributed 
to his renal failure. Will follow up with PCP for further 
management and appropriate choice of alternative medications 
given his kidney function.

# Gross hematuria: Mr. ___ noted red urine for ___ days prior 
to admission. Renal and bladder ultrasound were obtained which 
showed minimally complex right renal cortical cyst with no 
evidence of hydronephrosis or bladder thickening/masses. His 
hematuria improved while his UTI was being treated with 
antibiotics, which makes the infection as the most likely 
etiology. Given his radiation history of the area for prostate 
CA, he is likely to have friable, ectatic vessels, predisposing 
him to worse hematuria with the added insult of the UTI. At 
discharge, he had no gross hematuria, but microscopic evidence. 
On microscopic examination of the urine, no dysmorphic RBCs to 
suggest GN. Differential also includes possible malignancy given 
his history of prostate cancer and his age. Urine cytology was 
sent and appointment with urology for cystoscopy was arranged. 
His PSA was last checked on ___ and it was 0.6 and no 
nodules were felt on prostate exam.  

# Anemia: The patient's anemia is chronic, with hct in ___ of 
27.4 with MCV of 7.9 consistent with iron deficiency anemia. His 
iron studies in ___ are also consistent, with low ferritin and 
high TIBC. Ferritin as an inpatient is also low, with low serum 
iron, normal TIBC, normal transferrin, and low transferrin sat 
(5.6%), consistent with an iron deficiency anemia. Guaiac in the 
ED was negative, so less concern for other sources of bleeding 
causing acute drop in hematocrit, as there is already a 
convincing source with his gross hematuria. He was transfused 2 
units of blood (admission Hct was 19.8) during admission and Hct 
improved to 23. 
Chronic anemia is likely secondary to long standing iron 
deficiency and more acutely to hematuria, worsening in turn the 
preexisting iron deficiency anemia. He was started on iron 
supplements while in the hospital to address his iron deficiency 
anemia. The low ferritin in the setting of severe sepsis is 
concerning for additional source of bleeding, as ferritin is an 
acute phase reactant and expected to be high in this setting. 
Last colonoscopy was in ___ and only finding was polonic 
polyps. In light of his chronic iron deficieny anemia and the 
concern for malignancy, recommend a diagnostic colonoscopy 
sooner, within the next month.

# Confusion/myoclonus: On ___, Mr. ___ was confused when he 
spiked a fever at 1700 on ___. He has a blown L pupil (appears 
to be chronic, since his eye surgery), and he was also acutely 
very confused with evident inattention on mental status exam. 
His myoclonic jerks/tremors were also much worse, with 
hyperreflexia with sustained clonus in the brachioradialis 
reflexes. Possible rigors on top of his noted muscle jerks on 
admission. A CT Head was obtained showing no acute changes. 
Episode was likely related to his urosepsis, as his mental 
status change was transient and improved with downtrending fever 
after antibiotics and acetaminophen treatment. He had no other 
episodes of mental status change during his hospitalization.

# Tremor/myoclonus: The patient had a postural as well as 
action/intention tremor in UEs on exam, without tremors at rest. 
At times, appeared more like myoclonic jerks especially when he 
was febrile. He improved with treatment of his UTI, with only 
slight evidence of a tremor after significant time with arms 
held outstreched during discharge. Given abrupt presentation in 
setting ___ and urosepsis, likely secondary to this process. 
We got TSH and free T4 levels, as hyperthyroidism can 
precipitate tremors, but his TSH was only minimally decreased, 
and his free T4 was normal. Additionally, tremor continued to 
improved as his urosepsis has been treated. He was evaluated by 
___ on the day of discharge, as his tremors had led to a fall the 
day of admission, and found to be more stable with a walker than 
with his cane. He will continue with home ___ to improve 
ambulation.

# Lymphocytopenia: WBC has been elevated and continues to be 
elevated to 12.6 despite treatment and improving clinical 
picture. His differential also had low lymphocytes, which 
persisted during his hospital stay (around 5-6%). An HIV Ab was 
sent, and found to be negative. It is unclear what the etiology 
is, and if this is an acute finding, or more chronic. Arranged 
for follow up with his PCP as an outpatient to ensure resolution 
of leukocytosis and recheck his WBC differential for workup of 
lymphocytopenia (may need blood smear).

# High AG metabolic acidosis: Initially found to have a 
metabolic acidosis with an anion gap on admission. Now resolved 
with a bicarbonate of 25. This was likely ___ uremia. There was 
also concern for significant sepsis with hypovolemia, so there 
is likely an element of hypoperfusion with lactic acidosis, as a 
lactate level was 2.2.

CHRONIC CARE:
# DMII: Last HgA1c was 5.8 in ___. Will hold metformin and 
lisinopril. The patient was started on sliding scale while 
inpatient with daily finger sticks in the AM. Given CKD, and 
baseline Cr 1.9, should not be on metformin. For now, given his 
HbA1c is in a good range, will hold metformin and recommend 
follow-up with PCP for further management, as sulfonylureas are 
worrisome for hypoglycemia, and metformin is contraindicated 
with his renal function. Will continue to hold lisinopril given 
resolving ___.

# HTN: Per discussion with pharm rep, HCTZ is not an ideal drug 
for this patient given his baseline Cr of 1.9 and GFR of 29.5. 
He was discontinued of all antihypertensives while he was 
hospitalized since his blood pressures were in the 100s-110s 
systolic while here. 

# OA of left knee: The patient did not complain of any pain 
while here, but he had only been ambulating minimally. He is on 
chronic NSAIDs at home (nabumetone 750mg daily). As this is 
contraindicated in renal insufficiency, we discontinued it. He 
received a steroid injection on ___ so will hold off on 
pain meds for now, and have him follow up with ortho and PCP for 
pain management if needed.

# Glaucoma: Continued with latanoprost, pilocarpine, 
dorzolamide, and brimonidine.

# Prostate Cancer: Last PSA was 0.6 on ___. He continued 
with tamsulosin. 

# Hepatitis C: Last LFTs checked on ___ and were normal, 
AFP was 8.1. Abdominal ultrasound of ___ with no sign of 
cirrhosis. LFTs were checked while in hospital, and all were 
within normal limits, with only a slight elevation of AST, and 
high LDH.  A viral load was 4,989,635. These findings were 
similar to those reported in ___ during a follow up for the 
patient's HCV. Per atrius note, patient not previously treated 
because thought to not have significant response to medication. 
Will follow up with his PCP. 

# HLD: Continued with simvastatin. 

# GERD: Continued with omeprazole.

TRANSITIONAL CARE:
- Holding Nabumetone, ACEI, metformin, and thiazide, given CKD 
and his recent ___
- restarting amlodipine 5mg, please follow up for possible 
increase now that off the thiazide and ACEI
- Please follow up with diabetes management as discontinuing 
metformin 
- please evaluate knee pain as holding NSAIDs for now due to ___ 
(received steroid injection on ___
- Patient has appointment scheduled for nephrology and urology. 
Likely needs cystoscopy 
- please follow up with blood cultures and urine cytology
- please repeat UA to evaluate persistence of 
microscopic/macroscopic hematuria
- follow up with resolution of tremors
- recheck creatinine levels (3.1 at discharge, baseline is 1.9)
- please arrange for diagnostic colonoscopy by next month due to 
concern for malignancy in the setting of chronic iron deficiency 
anemia. Recheck hematocrit to ensure it continues to remain 
stable. 
- recheck CBC for low lymphocyte count, may need further work up 
with blood smear 
- patient instructed to complete 14 days of antibiotic treatment 
from last negative culture (last day on ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
3. Pilocarpine 4% 1 DROP RIGHT EYE Q6H 
4. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Nabumetone 1500 mg PO BID 
7. Tamsulosin 0.4 mg PO DAILY 
8. Lisinopril 40 mg PO DAILY 
9. Hydrochlorothiazide 25 mg PO DAILY 
10. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
11. Simvastatin 20 mg PO DAILY 
12. Omeprazole 20 mg PO DAILY 
13. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
14. cod liver oil *NF* 1,250-135 unit Oral daily 
15. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
4. Omeprazole 20 mg PO DAILY 
5. Pilocarpine 4% 1 DROP RIGHT EYE Q6H 
6. Simvastatin 20 mg PO DAILY 
7. Tamsulosin 0.4 mg PO DAILY 
8. Ciprofloxacin HCl 500 mg PO Q24H 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth Daily Disp 
#*10 Tablet Refills:*0
9. Ferrous Sulfate 325 mg PO DAILY 
Please take at least 2 hours after taking your antibiotic 
(ciprofloxacin) 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
10. Amlodipine 5 mg PO DAILY 
11. Aspirin 325 mg PO DAILY 
12. cod liver oil *NF* 1,250-135 unit Oral daily 
13. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: urosepsis, acute kidney injury, gross hematuria
Secondary: anemia, diabetes mellitus II, hypertension, chronic 
hepatitis C, osteoarthritis, glaucoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___ 
___. You were admitted to the 
hospital because of significant blood in your urine, an 
infection in your urinary tract that spread to your blood, and 
worsening function of your kidneys. 

You were given some blood and were treated with antibiotics for 
your infection. Please continue to take the antibiotic 
(ciprofloxacin) for a total of 14 days (last day on ___. 

Some of your medications were discontinued because they can 
worsen your kidneys function. Please STOP taking 
hydrochlorothiazide, lisinopril, metformin, and nabumetone. Make 
sure you follow up with your primary care physician next week. 
 
Followup Instructions:
___